US04255422
A solution of 0.74 g (0.002 mole) of 6-chloro-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride, 0.55 g (0.0025 mole) of p-trifluoromethyl benzoylchloride, 0.17 g (0.002 mole) of sodium bicarbonate and 40 ml of 1:1 acetone-water solution was stirred overnight under nitrogen. The mixture was evaporated to dryness. The residue was extracted with ethylacetate. The extracted material was purified over a silica gel column using methanol-ethyl acetate to give 6-chloro-7,8-dihydroxy-1-phenyl-3-(p-trifluoromethylbenzoyl)-2,3,4,5-tetrahydro-1H-3-benzazepine, m.p. 243°-245° (dec.).

reactant | 6-chloro-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | 0.002 mole, 0.74 g | Cl.ClC1=C(C(=CC=2C(CNCCC21)C2=CC=CC=C2)O)O
reactant | p-trifluoromethyl benzoylchloride | 0.0025 mole, 0.55 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | sodium bicarbonate | 0.002 mole, 0.17 g | C([O-])(O)=O.[Na+]
solvent | acetone water | 40 ml | CC(=O)C.O
product | 6-chloro-7,8-dihydroxy-1-phenyl-3-(p-trifluoromethylbenzoyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=C(C(=CC=2C(CN(CCC21)C(C2=CC=C(C=C2)C(F)(F)F)=O)C2=CC=CC=C2)O)O | C24H19ClF3NO3
